US07585886B2
3-[(3S,4R)-4-({[Tert-butyl(dimethyl)silyl]oxy}methyl)pyrrolidin-3-yl]pyridine and N,N-diisopropylethylamine were dissolved in THF, methyl 4-[(chlorocarbonyl)oxy]benzoate (mfd. by Fluka) was added in one portion thereto at room temperature and stirred for 3 hours, and then the reaction solution was concentrated under a reduced pressure. Work-up and purification of the residue was carried out in the standard method to produce 4-(methoxycarbonyl)phenyl (3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-pyridin-3-ylpyrrolidine-1-carboxylate.

reactant | 3-[(3S,4R)-4-({[Tert-butyl(dimethyl)silyl]oxy}methyl)pyrrolidin-3-yl]pyridine | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H](CNC1)C=1C=NC=CC1 | C16H28N2OSi
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl 4-[(chlorocarbonyl)oxy]benzoate | ClC(=O)OC1=CC=C(C(=O)OC)C=C1 | C9H7ClO4
solvent | THF | C1CCOC1 | C4H8O
product | 4-(methoxycarbonyl)phenyl (3R,4S)-3-({[tert-butyl(dimethyl)silyl]oxy}methyl)-4-pyridin-3-ylpyrrolidine-1-carboxylate | [Si](C)(C)(C(C)(C)C)OC[C@H]1CN(C[C@@H]1C=1C=NC=CC1)C(=O)OC1=CC=C(C=C1)C(=O)OC | C25H34N2O5Si
